US06498251B1
Synthesis Example 3d 2a-(3-Formylpropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
In a shaded container, 2a-(4-pentenyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (1.3 g, 5.3 mmol) and N-methylmorpholine oxide (1.9 g, 16 mmol) were dissolved in a mixed solvent of 1,4-dioxane (20 ml) with water (10 ml), and the solution was mixed with osmium tetroxide (4% aqueous solution 3.4 ml, 0.53 mmol) and stirred at room temperature for 2 hours. The reaction solution was mixed with rater (80 ml), the reaction product was extracted with ethyl acetate, washed with saturated brine and dried with anhydrous sodium sulfate, and then the solvent was removed by evaporation under a reduced pressure. The residue was dissolved in a mixed solvent of 1,4-dioxane (20 ml) with water (10 ml), and the solution was mixed with sodium periodate (2.6 g, 12 mmol) and stirred as such for 2.5 hours. The reaction solution was mixed with water (100 ml), and the reaction product was extracted with ethyl acetate, washed with saturated brine and dried with anhydrous sodium sulfate. By evaporating the solvent from the extract under a reduced pressure, 1.3 g (5.3 mmol 100% in yield) of the title compound was obtained.

reactant | 2a-(4-pentenyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 5.3 mmol, 1.3 g | C(CCC=C)C12C(NC=3C=CC=C(C13)CCC2)=O | C16H19NO
reactant | N-methylmorpholine oxide | 16 mmol, 1.9 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | sodium periodate | 12 mmol, 2.6 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | osmium tetroxide | 0.53 mmol, 3.4 ml | [Os](=O)(=O)(=O)=O
solvent | water | 100 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 2a-(3-Formylpropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | C(=O)CCCC12C(NC=3C=CC=C(C13)CCC2)=O | C15H17NO2
